US05900486
To a solution of 28 mg of 4-acetoxybenzyl bromide in 1.5 mL of CHCl3 was added 30 mg of Ketoconazole and the mixture was stirred for 16 h at room temperature. The solvent was evaporated in vacuo. Column chromatography on silica gel(Wakogel C-200, solvent:CH2Cl2/MeOH=10/1) gave 1-(4-acetoxybenzyl)-3-[(2R*,4S*)-4-[4-(4-acetyl pi perazin-1-yl)phenoxymethyl]-2-(2,4-dichlorophenyl)-[1,3]dioxolan-2-yl methyl]-3H-imidazol-1-ium bromide (32 mg, 76%, as colorless oil); MALDI-TOF-MS m/z 679 (M--Br)+; 1H-NMR(CDCl3) δ2.14(3H,s), 2.28(3H,s), 3.05(4H,m), 3.60~3.89(8H,m), 4.33(1H,m), 4.80(2H,s), 5.37(1H,d,J=14.5 Hz), 5.61(1H,d,J=14.5 Hz), 6.78(2H,d,J=9.1 Hz), 6.92, (2H,d,J=9.1 Hz), 7.03(2H,d,J=8.6 Hz), 7.24~7.63(7H,m), 10.1(1H,s).

reactant | 4-acetoxybenzyl bromide | 28 mg | C(C)(=O)OC1=CC=C(CBr)C=C1 | C9H9BrO2
reactant | Ketoconazole | 30 mg | CC(=O)N1CCN(CC1)C=2C=CC(=CC2)OC[C@@H]3CO[C@@](O3)(CN4C=CN=C4)C=5C=CC(=CC5Cl)Cl | C26H28Cl2N4O4
solvent | CHCl3 | 1.5 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-(4-acetoxybenzyl)-3-[(2R*,4S*)-4-[4-(4-acetyl pi perazin-1-yl)phenoxymethyl]-2-(2,4-dichlorophenyl)-[1,3]dioxolan-2-yl methyl]-3H-imidazol-1-ium bromide | 32 mg, 76% | [Br-].C(C)(=O)OC1=CC=C(C[N+]2=CN(C=C2)C[C@@]2(OC[C@@H](O2)COC2=CC=C(C=C2)N2CCN(CC2)C(C)=O)C2=C(C=C(C=C2)Cl)Cl)C=C1 | InChI=1S/C35H37Cl2N4O6.BrH/c1-25(42)40-15-17-41(18-16-40)29-6-10-30(11-7-29)44-21-32-22-45-35(47-32,33-12-5-28(36)19-34(33)37)23-39-14-13-38(24-39)20-27-3-8-31(9-4-27)46-26(2)43;/h3-14,19,24,32H,15-18,20-23H2,1-2H3;1H/q+1;/p-1/t32-,35-;/m0./s1
